US08119673B2
(iv) (5S)-1-[(2R)-2-(4-Fluorophenyl)-2-hydroxyacetyl]-4,5-dihydro-1H-pyrazole-5-carboxylic acid
To a solution of acetonitrile (70 mL), water (1.5 mL) and LiBr (12.69 g, 146.12 mmol) was added ethyl (5S)-1-[(2R)-2-(4-fluorophenyl)-2-hydroxyacetyl]-4,5-dihydro-1H-pyrazole-5-carboxylate (8.6 g, 29.22 mmol) followed by triethylamine (10.13 mL, 73.06 mmol). The homogenous clear solution was then stirred at room temperature over night. EtOAc (200 mL) and 1M HCl (aq., 150 mL) were added. The aqueous phase was extracted with EtOAc (100 mL). The pooled organic layers were then concentrated. This furnished 7.2 g of the desired acid as a solid. The pooled aqueous layers was extracted with EtOAc (2×50 mL), followed by washing of the combined organic layers with water (50 mL), an additional 0.42 g product was isolated. Total yield 98%. 1H NMR [400 MHz, (CD3)2SO] δ 2.86 (ddd, 1H), 3.23 (ddd, 1H), 4.53 (dd, 1H), 5.71-5.77 (m, 2H), 7.07-7.15 (m, 3H), 7.36-7.42 (m, 2H), 12.97 (s, br, 1H).

reactant | LiBr | 146.12 mmol, 12.69 g | [Li+].[Br-]
reactant | ethyl (5S)-1-[(2R)-2-(4-fluorophenyl)-2-hydroxyacetyl]-4,5-dihydro-1H-pyrazole-5-carboxylate | 29.22 mmol, 8.6 g | FC1=CC=C(C=C1)[C@H](C(=O)N1N=CC[C@H]1C(=O)OCC)O | C14H15FN2O4
reactant | triethylamine | 73.06 mmol, 10.13 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M, 150 mL | Cl | ClH
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 1.5 mL | O | H2O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | (5S)-1-[(2R)-2-(4-Fluorophenyl)-2-hydroxyacetyl]-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 0.42 g, yield 98% | FC1=CC=C(C=C1)[C@H](C(=O)N1N=CC[C@H]1C(=O)O)O | C12H11FN2O4
